US07449463B2
A mixture of 3-bromo-aniline (0.037 mol), 2-bromo-ethanol (0.074 mol) and triethylamine (0.0555 mol) in toluene (35 ml) was stirred under reflux for 12 hours. The reaction was cooled down to room temperature and the precipitate was filtered off. The solvent of the filtrate was evaporated until dryness. The residue (22 g) was purified by column chromatography over silica gel (eluent: CH2Cl2/CH3OH/NH4OH 98/2/0.1; 20-45 μm). The pure fractions were collected and the solvent was evaporated, yielding 4.8 g of 2-(3-bromo-phenylamino)-ethanol (60%).

reactant | 3-bromo-aniline | 0.037 mol | BrC=1C=C(N)C=CC1 | C6H6BrN
reactant | 2-bromo-ethanol | 0.074 mol | BrCCO | C2H5BrO
reactant | triethylamine | 0.0555 mol | C(C)N(CC)CC | C6H15N
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
product | 2-(3-bromo-phenylamino)-ethanol | 4.8 g, 60% | BrC=1C=C(C=CC1)NCCO | C8H10BrNO
